US08895559B2
300 mg of 2-[3-(3-chloroquinoxalin-2-ylsulfamoyl)pyrazol-1-yl]-2,2-difluoro-N,N-dimethylacetamide and 258 mg of 4-(2-amino-4,6-dimethoxyphenoxy)butan-2-ol in 4 ml of 1-propanol are heated at 140° C. in a microwave-suitable glass vessel with high absorption in the microwave until starting material 1 has reacted virtually completely (about 45 minutes). The cooled reaction mixture is filtered off with suction, rinsed with 1-propanol and dried, giving 320 mg of 2,2-difluoro-2-(3-{3-[2-(3-hydroxybutoxy)-3,5-dimethoxyphenylamino]quinoxalin-2-ylsulfamoyl}pyrazol-1-yl)-N,N-dimethylacetamide as slightly yellowish solid (yield 74%). MS-FAB (M+H+)=636.2. Rf (polar method): 2.41 min.

reactant | 2-[3-(3-chloroquinoxalin-2-ylsulfamoyl)pyrazol-1-yl]-2,2-difluoro-N,N-dimethylacetamide | 300 mg | ClC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=NN(C=C1)C(C(=O)N(C)C)(F)F | C15H13ClF2N6O3S
reactant | 4-(2-amino-4,6-dimethoxyphenoxy)butan-2-ol | 258 mg | NC1=C(OCCC(C)O)C(=CC(=C1)OC)OC | C12H19NO4
solvent | 1-propanol | 4 ml | C(CC)O | C3H8O
product | 2,2-difluoro-2-(3-{3-[2-(3-hydroxybutoxy)-3,5-dimethoxyphenylamino]quinoxalin-2-ylsulfamoyl}pyrazol-1-yl)-N,N-dimethylacetamide | 320 mg | FC(C(=O)N(C)C)(N1N=C(C=C1)S(NC1=NC2=CC=CC=C2N=C1NC1=C(C(=CC(=C1)OC)OC)OCCC(C)O)(=O)=O)F | C27H31F2N7O7S
